US08357807B2
(1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-aminocarbonylethylisoquinoline oxalate (7.0 g, 0.0139 moles) was dissolved in water (30 ml) and 20% aqueous sodium hydroxide solution was added to produce a pH in the range of 9-10. Dichloromethane (100 ml) was added and the mixture was stirred for 15 minutes at ambient temperature. The upper organic layer was separated and washed with 10% sodium chloride solution. The organic layer was dried over magnesium sulfate and evaporated under reduced pressure to afford an oily residue. Iodomethane (20 ml, 0.321 moles) was added to the oily residue. The mixture was stirred to obtain a solution and kept at ambient temperature overnight. The resulting precipitate was collected by filtration, washed with diethyl ether and dried to afford a mixture of 72% of the cis and 28% of the trans isomers of (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methyl-2-aminocarbonylethyl-isoquinolinium iodide (7.7 g; 99% yield).

reactant | (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-aminocarbonylethylisoquinoline oxalate | 0.0139 moles, 7.0 g | C(C(=O)O)(=O)O.COC=1C=C(C=CC1OC)C[C@]1(NCCC2=CC(=C(C=C12)OC)OC)CCC(=O)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | Iodomethane | 0.321 moles, 20 ml | IC | CH3I
solvent | water | 30 ml | O | H2O
product | (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methyl-2-aminocarbonylethyl-isoquinolinium iodide | 7.7 g, 99% yield | [I-].COC=1C=C(C=CC1OC)C[C@]1([NH+](CCC2=CC(=C(C=C12)OC)OC)C)CCC(=O)N | InChI=1S/C24H32N2O5.HI/c1-26-11-9-17-13-21(30-4)22(31-5)14-18(17)24(26,10-8-23(25)27)15-16-6-7-19(28-2)20(12-16)29-3;/h6-7,12-14H,8-11,15H2,1-5H3,(H2,25,27);1H/t24-;/m1./s1
